US09126981B2
Synthesis of (S)-3-(3-benzylureido)-N-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-yl)-3-methylbutanamide (Compound II-5)
According to the procedure described in the synthesis method of Compound II-1, 3-(3-benzylureido)-3-methylbutanoic acid (Compound VI-2) (170 mg, 0.68 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-2) (223 mg, 0.45 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethylacetate=50:50 to 0:100) to obtain the title compound (289 mg, 89%).

reactant | 3-(3-benzylureido)-3-methylbutanoic acid | 0.68 mmol, 170 mg | C(C1=CC=CC=C1)NC(NC(CC(=O)O)(C)C)=O | C13H18N2O3
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide | 0.45 mmol, 223 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C | C30H40N2O4
product | (S)-3-(3-benzylureido)-N-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-yl)-3-methylbutanamide | 289 mg, 89% | C(C1=CC=CC=C1)NC(NC(CC(=O)N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C)(C)C)=O | C43H56N4O6
